Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fibroid uterus, pelvic pain, stress incontinence 
 
Major Surgical or Invasive Procedure:
1. Transvaginal repair of cystotomy.
2. Retropubic mid urethral sling procedure.
3. Cystoscopy and repair of cystotomy.
4. Laparoscopic-assisted vaginal hysterectomy with bilateral 
salpingectomy.

 
History of Present Illness:
pt presents for evaluation of fibroids. In the past month, she
has had LLQ pain that radiates down her L leg. It is worst just
before her period and improves a lot after she starts bleeding.
She does not have post-coital bleeding, or intermenstrual
bleeding. She does have some discomfort with intercourse. She 
has
not missed any periods. She has SUI daily, urinary frequency and
urge incontinence. No constipation. She has a hx of bilat
hydrosalpinx. Her PCP obtained ___ which was neg.

___ PUS FINDINGS:  
The uterus is anteverted and measures 8.9 x 4.8 x 5.5 cm.  The
uterus is bulky which represents a fibroid uterus vs 
adenomyosis.
There is an intramural dominant fibroid anterior to the
endometrium measuring 1.1 x 1.0 x 1.1 cm.  There is an right
intramural hypoechoic lesion measuring 8 x 6 x 7 mm which 
can represent focal adenomyosis vs necrosis within a fibroid.  
Endometrium is homogenous and measures 9.1 mm. The ovaries are
normal.  There is a right adnexal hydrosalpinx measuring 2 cm 
in greatest dimension.  There is no free fluid. 
 
Past Medical History:
GYNECOLOGIC HISTORY
 
Menstrual History
Menses 13xmonthlyx3-4, no clots, changes every ___ hours, no
metrorraghia, no post coital bleeding, dyspareunia, no
dysmenorrhea.

 
Preventative Maintenance
Last pap: ___. Result: Neg per pt. 
History of abnormal Paps: Yes: Unsure of result. 
Last mammogram: ___. Result: Neg. Facility used: BI. 
Last colonscopy: ___. Result: Appointment with ___. 
 
Infection/STI history: None. 
 
Contraception: LTL. 
 
PAST MEDICAL HISTORY: 
  1. Depression/anxiety. 
  2. GERD. 
  3. High cholesterol. 
  4. OSA. 
  5. Acne. 
  6. Alopecia. 
  7. Lactose intolerance. 
  8. Rectal bleeding. 
  9. Low back pain. 
  10. Atypical chest pain. 
 
PAST SURGICAL HISTORY 
  1. Back surgery L4-L5. 
 
Social History:
Marital status:     Divorced                                    
Children:           Yes                                         
Lives with:         Alone                                       
Lives in:           Apartment                                   
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Sexual Abuse:       Past                                        
Domestic violence:  Past                                        
Domestic violence   safe now                                    
comments:                                                       
Contraception:      Sterilization - tubal ligation              
Tobacco use:        Light tobacco smoker (Less than 10          
                    cigarettes per day)                         
Smoking cessation   Yes                                         
counseling offered:                                             
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                         
 
Family History:
Father - colon cancer
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing transvaginal repair of cystotomy, retropubic 
mid urethral sling procedure, cystoscopy, and 
laparoscopic-assisted vaginal hysterectomy with bilateral 
salpingectomy. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and Toradol. 
Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone, ibuprofen, acetaminophen. Due to 
intra-operative cystotomy, she was sent home with Foley Catheter 
with plan to remove in office on ___. She was therefore 
provided Foley Catheter teaching and started on prophylactic 
antibiotics. 

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
clindamycin, ketoconazole, lidocaine
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
do not exceed 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID 
take if using oxycodone for pain  
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*2
3. Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE QID 
RX *erythromycin 5 mg/gram (0.5 %) ___ drops Four times a day 
Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drive while taking, use with stool softener 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
5. Ibuprofen 600 mg PO Q6H:PRN pain  
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1
6. Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY Duration: 
14 Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth once a day Disp #*14 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stress urinary incontinence with urethral hypermobility.
Abnormal uterine bleeding.
Fibroids.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months or until cleared by your doctor.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You were also given 
a prescription for Macrodantin (nitrofurantoin) antibiotic to 
prevent a UTI while you have the catheter. Please take as 
prescribed. You should follow-up in Dr. ___ in 
___ days for catheter removal. You will be called by her 
office for an appointment.
 
Followup Instructions:
___